US07410963B2
5-(3,4-Dimethoxy-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one
Prepared from 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one using the same method described for Example 9 and instead of using 3-formylbenzene boronic acid, we used 3,4-dimethoxyphenyl boronic acid. The title compound (88 mg) was obtained as a pale yellow solid, (yield=59%).

reactant | 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | ClC=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C16H13ClN2O
reactant | 3-formylbenzene boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 3,4-dimethoxyphenyl boronic acid | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 5-(3,4-Dimethoxy-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 88 mg, yield=59% | COC=1C=C(C=CC1OC)C=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C24H22N2O3
